US08748624B2
STEP A: 2-formyl-6-methylphenyl 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonate
A 1.04 M THF solution of t-BuOK (3.7 mL, 3.9 mmol) was added to a THF solution (0.5 mL) of 2-hydroxy-3-methylbenzaldehyde (500 mg, 3.7 mmol) and 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonyl fluoride (1.16 g, 3.9 mmol) and the reaction was stirred at room temperature. After 30 min the temperature was increased to 40° C. After 5 min the resulting mixture was partitioned with DCM and water, and the aqueous layer was extracted with DCM. The combined organic layers were dried (Na2SO4) and concentrated to yield a 4:1 w/w mixture of the title compound and starting material, which mixture was used in the next step without further purification.

reactant | t-BuOK | 3.9 mmol, 3.7 mL | CC(C)(C)[O-].[K+]
reactant | 2-hydroxy-3-methylbenzaldehyde | 3.7 mmol, 500 mg | OC1=C(C=O)C=CC=C1C | C8H8O2
reactant | 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonyl fluoride | 3.9 mmol, 1.16 g | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)F)F | C4F10O2S
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | THF | 1.04 M | C1CCOC1 | C4H8O
product | 2-formyl-6-methylphenyl 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonate | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)OC1=C(C=CC=C1C)C=O)F | C12H7F9O4S
